US06967208B2
Sodium cyanoborohydride (1.54 g, 25 mmol) was added in one portion to a stirring orange solution of 5-iodo-1H-indole (6.0 g, 25 mmol) in glacial acetic acid (350 mL). After 24 h, the orange solution was concentrated. To the resulting red residue was added tetrahydrofuran (250 mL) and di-tert-butyl dicarbonate (16 g, 74 mmol) followed by saturated aqueous sodium bicarbonate (20 mL). The resulting mixture was stirred for 24 h and was then poured into aqueous 1N hydrogen chloride (70 mL). The layers were separated, and the aqueous layer was washed with ethyl acetate (3×50 mL). The combined organic layers were washed with saturated aqueous sodium chloride (50 mL), dried over sodium sulfate and concentrated. The resulting residue was dissolved in THF (100 mL), and benzyl amine (6 mL, 55 mol) was added. The resulting solution was stirred for 1.5 h and was then poured into 1N hydrogen chloride (70 mL). The layers were separated and the aqueous layer was washed with ethyl acetate (3×50 mL). The combined organic layers were washed with saturated aqueous sodium chloride (50 mL), dried over sodium sulfate, and concentrated. Purification of the resulting residue by flash column chromatography (5% ethyl acetate in hexanes) afforded tert-butyl 5-iodo-1-indolinecarboxylate (3.9 g, 45%) as a white solid. LC/MS (ESI+): 346.1 (M+H)+. 1H NMR (CDCl3) δ 7.43 (m, 1H), 7.15 (m, 1H), 6.89 (dt, 1H), 3.96 (m, 2H), 3.08 (t, 1H), 3.05 (t, 1H) 1H), 1.55 (s, 9H).

reactant | Sodium cyanoborohydride | 25 mmol, 1.54 g | C(#N)[BH3-].[Na+]
reactant | 5-iodo-1H-indole | 25 mmol, 6.0 g | IC=1C=C2C=CNC2=CC1 | C8H6IN
reactant | di-tert-butyl dicarbonate | 74 mmol, 16 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
reactant | hydrogen chloride | 1N, 70 mL | Cl | ClH
reactant | benzyl amine | 55 mol, 6 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | hydrogen chloride | 1N, 70 mL | Cl | ClH
solvent | acetic acid | 350 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | tert-butyl 5-iodo-1-indolinecarboxylate | 3.9 g, 45% | IC=1C=C2CCN(C2=CC1)C(=O)OC(C)(C)C | C13H16INO2
